US06495546B1
Under nitrogen, a solution of 3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-ylamine (720 mg), N-[2-benzyloxy-5-[(1R)-2-iodo-1-(triethylsilyloxy)ethyl]phenyl]-methanesulfonamide (2.1 g) and N,N-diisopropylethylamine (2.6 ml) in N,N-dimethylacetamide (10 ml) was stirred at 110° C. for 96 hours. The resulting mixture was poured into aqueous 10% sodium hydrogensulfite and extracted with ethyl acetate. The organic layer was successively washed with saturated aqueous sodium hydrogencarbonate and brine, dried over anhydrous sodium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (chloroform:methanol=40:1 to 20:1) to give N-[2-benzyloxy-5-[(1R)-1-hydroxy-2-(3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-ylamino)ethyl]phenyl]methanesulfonamide (381 mg).

reactant | 3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-ylamine | 720 mg | COC1=CC2=C(CCCC(C2)N)C=C1 | C12H17NO
reactant | N-[2-benzyloxy-5-[(1R)-2-iodo-1-(triethylsilyloxy)ethyl]phenyl]-methanesulfonamide | 2.1 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CI)O[Si](CC)(CC)CC)NS(=O)(=O)C | C22H32INO4SSi
reactant | N,N-diisopropylethylamine | 2.6 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
product | N-[2-benzyloxy-5-[(1R)-1-hydroxy-2-(3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-ylamino)ethyl]phenyl]methanesulfonamide | 381 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CNC1CC2=C(CCC1)C=CC(=C2)OC)O)NS(=O)(=O)C | C28H34N2O5S
